US05424308
6-Tosylamino-indan-1-one, m.p. 202°-204° C., (4.2 g) is reacted with diethyl oxalate (20.5 g) in anhydrous ethanol (125 ml) containing sodium ethoxide (3.75 g) under stirring in inert atmosphere at room temperature for 2 hours. The reaction mixture is diluted with ice water and extracted with hexane. The aqueous phase is acidified to pH 3 with N HCl and extracted with ethyl acetate. The organic solution is washed with water until neutral and then is evaporated to dryness in vacuo to give crude 2-ethoxalyl-6-tosylamino-indan-1-one, which is reacted with phenylhydrazine (1.65 g) in acetic acid (60 ml) at 60° C. for 2 hours. The reaction mixture is diluted with ice water and the precipitate is filtered, washed with water, dissolved in CHCl3 and evaporated to dryness in vacuo. Purification over a SiO2 column using hexane/ethyl acetate 7/3 as eluent yields pure 1,4-dihydro-1-phenyl-7-tosylamino -indeno[1,2-c]pyrazole-3-carboxylic acid, ethyl ester (3.3 g), which is reacted with acetonitrile (12 ml) in anhydrous dioxane (50 ml) in the presence of 50% sodium hydride (1.1 g) under stirring at 60° C. for 4 hours. After cooling the reaction mixture is diluted with ice water and acidified to pH 4 with citric acid. The precipitate is extracted with ethyl acetate, washed with 5% NaHCO 3 aqueous solution and then with water. By concentration to a small volume in vacuo the product crystallizes. The precipitate is filtered and washed with ethyl acetate to yield pure 3-(1,4-dihydro-1-phenyl-7-tosylamino-indeno [1,2-c]pyrazol-3-yl)-3-oxo-propanenitrile (2.1 g), which is reacted with phenyl isocyanate (0.55 g) in dimethylformamide (15 ml) in the presence of triethylamine (0.65 ml) at room temperature for 30 minutes. The reaction mixture is diluted with ice water and acidified to pH 2 with 2N HCl.

reactant | 6-Tosylamino-indan-1-one | S(=O)(=O)(C1=CC=C(C)C=C1)NC1=CC=C2CCC(C2=C1)=O | C16H15NO3S
reactant | diethyl oxalate | 20.5 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium ethoxide | 3.75 g | [O-]CC.[Na+]
reactant | phenylhydrazine | 1.65 g | C1(=CC=CC=C1)NN | C6H8N2
solvent | ethanol | 125 ml | C(C)O | C2H6O
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 1,4-dihydro-1-phenyl-7-tosylamino -indeno[1,2-c]pyrazole-3-carboxylic acid, ethyl ester | 3.3 g | C1(=CC=CC=C1)N1N=C(C2=C1C1=CC(=CC=C1C2)NS(=O)(=O)C2=CC=C(C)C=C2)C(=O)OCC | C26H23N3O4S
